ENGR202 Problem 1 - Run then Ctrl+L for answers
* All resistances in ohms. Current references follow the supplied diagram.
V1 VS 0 10
R6 VS B 2
R1 B A 4
R2 A 0 10
R3 B C 6
R4 B C 8
R5 C 0 12
.tran 10m 1
.options plotwinsize=0 numdgt=12 measdgt=12
.meas TRAN Ix_A FIND I(R6) AT=1
.meas TRAN Iy_A FIND I(R5) AT=1
.meas TRAN VB_V FIND V(B) AT=1
.meas TRAN Vx_V FIND V(A,B) AT=1
.end
