ENGR202 Problem 2 - Run then Ctrl+L for answers
* All resistances in ohms. Current references follow the supplied diagram.
I1 0 S1 1
R1 S1 A 10
R2 A B 6
R3 A B 6
R6 A 0 2
R4 B C 1
V1 C 0 10
R5 B 0 8
.tran 10m 1
.options plotwinsize=0 numdgt=12 measdgt=12
.meas TRAN VA_V FIND V(A) AT=1
.meas TRAN VB_V FIND V(B) AT=1
.meas TRAN Vx_V FIND V(B) AT=1
.meas TRAN Iy_A FIND I(R6) AT=1
.meas TRAN Ix_A FIND I(R2) AT=1
.end
