ENGR202 Problem 3 - Run then Ctrl+L for answers
* All resistances in ohms. Current references follow the supplied diagram.
R4 L A 6
V2 A U 6
R1 U M 4
R3 A M 10
R5 0 A 8
R2 D 0 7
V1 M D 10
V3 L 0 12
.tran 10m 1
.options plotwinsize=0 numdgt=12 measdgt=12
.meas TRAN i1_A FIND I(R4) AT=1
.meas TRAN i2_A FIND I(R1) AT=1
.meas TRAN i3_A FIND I(R2) AT=1
.meas TRAN Ix_A FIND I(R5) AT=1
.meas TRAN Iy_A FIND I(R1) AT=1
.end
